US07786108B2
Step 6. Preparation of 7-Ethyl-8-trifluoromethyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one
Heat a mixture of 7-ethyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1,4-dicarboxylic acid 1-isopropyl ester 4-methyl ester (23.55 g, 58.61 mmol), sodium chloride (52.50 g), and water (10.0 mL) in dimethylsulfoxide (500 mL) at reflux for 46 h. Allow the mixture to cool to room temperature and dilute it with water (200 mL) and ethyl acetate (200 mL). Wash the organic layer with water (350 mL). Dry the organic layer over anhydrous sodium sulfate and filter. Remove the solvents under reduced pressure and purify the resulting residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (0 to 15%), to provide the title compound as a yellow solid (9.17 g, 61%) TLC Rf 0.32 (3:1 hexanes/ethyl acetate); 1H NMR (CDCl3, 300 MHz) δ 1.10-1.23 (m, 3H), 2.13-2.21 (m, 2H), 2.63-2.71 (m, 2H), 2.83-2.92 (m, 2H), 3.22-3.31 (m, 2H), 4.74 (bs, 1H), 7.03 (s, 1H), 7.68 (s, 1H).

reactant | 7-ethyl-5-oxo-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1,4-dicarboxylic acid 1-isopropyl ester 4-methyl ester | 58.61 mmol, 23.55 g | COC(=O)C1C(C2=C(N(CC1)C(=O)OC(C)C)C=C(C(=C2)CC)C(F)(F)F)=O | C19H22F3NO5
reactant | sodium chloride | 52.50 g | [Cl-].[Na+]
solvent | dimethylsulfoxide | 500 mL | CS(=O)C | C2H6OS
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10.0 mL | O | H2O
product | 7-Ethyl-8-trifluoromethyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 9.17 g, 61% | C(C)C1=CC2=C(NCCCC2=O)C=C1C(F)(F)F | C13H14F3NO
